US05512175
The phenol producing apparatus 10, from an upstream side (the left side in the drawing), has a reaction tower 11 in which benzene reacts with propylene as raw materials to form so-called cumene isopropylbenzene, an oxidation tower 14 which oxidizes therein the cumene via a benzene tower 12 and a cumene tower 13 to form cumene hydroperoxide (CHP), a sodium removing apparatus 30 which separates and removes sodium mixed into for neutralization , a concentration tower 15 which concentrates cumene hydroperoxide, a sodium removing apparatus 31 provided on the way back from the concentration tower 15 to the upstream side of the oxidation tower 14, a disintegration tower 16 which disintegrates the concentrated cumene hydroperoxide by an acid material to form coarse phenol and coarse acetone, a sodium removing apparatus 32, and a coarse acetone tower 17, a refined acetone tower 18, a phenol tower 19 which are each kinds of distilled tower for separating and refining phenol and acetone.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | propylene | C=CC | C3H6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cumene isopropylbenzene | C(C)(C)C1=CC=CC=C1.C1(=CC=CC=C1)C(C)C | 2C9H12
